US05143912
A mixture of 1.17 g of 1-[[2-(2-chloro-6-cyanophenyl)-1,6-dihydro-6-oxo-5-phenyl-3-pyridyl]carbonyl]-3-methoxyazetidine, 0.91 g of zinc powder and 25 ml of acetic acid was heated to boiling under reflux for 15 minutes under argon. The reaction mixture was then poured into 125 ml of water, whereupon the separated crystals were filtered off under suction and washed with water. The aqueous phase was exhaustively extracted with methylene chloride. The combined organic phases were evaporated and the residue was purified with the crystals obtained above. This material was chromatographed on silica gel with methylene chloride/acetone (9:1) and then recrystallized from toluene. There was obtained 0.33 g of 1-[(10-chloro-4,6-dihydro-4-oxo-3-phenylpyrido[2,1-a]isoindol-1-yl)carbonyl]-3-methoxyazetidine as yellow crystals with a m.p. of 235°-238°.

reactant | 1-[[2-(2-chloro-6-cyanophenyl)-1,6-dihydro-6-oxo-5-phenyl-3-pyridyl]carbonyl]-3-methoxyazetidine | 1.17 g | ClC1=C(C(=CC=C1)C#N)C=1NC(C(=CC1C(=O)N1CC(C1)OC)C1=CC=CC=C1)=O | C23H18ClN3O3
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.91 g | [Zn] | Zn
solvent | water | 125 ml | O | H2O
product | 1-[(10-chloro-4,6-dihydro-4-oxo-3-phenylpyrido[2,1-a]isoindol-1-yl)carbonyl]-3-methoxyazetidine | 0.33 g | ClC=1C=CC=C2CN3C(C12)=C(C=C(C3=O)C3=CC=CC=C3)C(=O)N3CC(C3)OC | C23H19ClN2O3
